US07407950B2
5.1 Ethyl 5-trifluoromethyl-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxylate
A solution of 2.88 g (11.2 mmol) of ethyl 5-trifluoromethyl-1H-indole-2-carboxylate (obtained by Fisher indole synthesis from 4-(trifluoromethyl)phenylhydrazine) in 50 ml of dimethylformamide is added dropwise to a suspension of 0.58 g (14.56 mmol) of sodium hydride in 5 ml of dimethylformamide cooled in an ice bath. The mixture is stirred for 2 hours at room temperature and a solution of 2.54 g (13.44 mmol) of 3-fluorobenzyl bromide in 20 ml of dimethylformamide is then added. Stirring is continued for 24 hours. 2.44 mmol of 3-fluorobenzyl bromide are added and the mixture is stirred for a further 4 hours. The solvent is evaporated off under reduced pressure and the residue is taken up in water and ethyl acetate. After separation of the phases by settling, the organic phase is separated out and then washed with twice 50 ml of water and then with 50 ml of saturated sodium chloride solution. The solution is dried over magnesium sulfate and filtered, and then the filtrate is concentrated under reduced pressure. The residue is purified by chromatography on silica gel. 2.74 g of product are obtained.

reactant | ethyl 5-trifluoromethyl-1H-indole-2-carboxylate | 11.2 mmol, 2.88 g | FC(C=1C=C2C=C(NC2=CC1)C(=O)OCC)(F)F | C12H10F3NO2
reactant | sodium hydride | 14.56 mmol, 0.58 g | [H-].[Na+]
reactant | 3-fluorobenzyl bromide | 13.44 mmol, 2.54 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | 3-fluorobenzyl bromide | 2.44 mmol | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 5-trifluoromethyl-1-[(3-fluorophenyl)methyl]-1H-indole-2-carboxylate | 2.74 g | FC(C=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)F)C(=O)OCC)(F)F | C19H15F4NO2
